data/rdb19/train.csv
rxn,smiles,ea
1533,[C:10]([C:11]([C:12]([H:13])[O:14][C:15](=[O:16])[C:17]([H:23])([H:24])[H:25])([H:21])[H:22])([H:18])([H:19])[H:20].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:10]([C:11](=[C:12]([H:13])[O:14][C:15](=[O:16])[C:17]([H:23])([H:24])[H:25])[H:21])([H:18])([H:19])[H:20].[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])([H:9])[H:22])[H:7])[H:6],28.23664671689039
431,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7]([O:8][C:9](=[O:10])[C:11](=[C:12]([H:17])[H:18])[C:13]([H:19])([H:20])[H:21])([H:14])([H:15])[H:16]>>[C:1]([O:2][O:3][C:12]([C:11]([C:9]([O:8][C:7]([H:14])([H:15])[H:16])=[O:10])[C:13]([H:19])([H:20])[H:21])([H:17])[H:18])([H:4])([H:5])[H:6],21.41149715310894
5133,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[H:29])([O:30][C:31](=[O:32])[C:33]([H:38])([H:39])[H:40])[H:37])([H:34])([H:35])[H:36]>>[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([C:5]1[C:6]([H:20])([H:37])[C:7]([H:21])=[C:8]([H:22])[C:9]([H:23])=[C:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26](=[C:27]([H:28])[H:29])[O:30][C:31](=[O:32])[C:33]([H:38])([H:39])[H:40])([H:34])([H:35])[H:36],42.29416040191427
1994,[C:11]([C:12]([C:13]([C:14]([H:21])([H:22])[H:23])[C:15]([H:24])([H:25])[H:26])([H:19])[H:20])([H:16])([H:17])[H:18].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([C:14]([H:21])([H:22])[H:23])[C:15]([H:24])([H:25])[H:26])[H:20])([H:16])([H:17])[H:18].[N:1]([C:2]([O:3])([C:4](=[C:5]([H:9])[H:10])[H:8])[H:19])([H:6])[H:7],48.31918276910437
4360,[C:16]([C:17]([C:18]([H:19])[O:20][C:21](=[O:22])[C:23]([H:29])([H:30])[H:31])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:11])[H:12])([C:7]([H:13])([H:14])[H:15])[C:18]([C:17]([C:16]([H:24])([H:25])[H:26])([H:27])[H:28])([H:19])[O:20][C:21](=[O:22])[C:23]([H:29])([H:30])[H:31])([H:8])([H:9])[H:10],15.286584062036129
343,[C:4]([O:5][C:6](=[C:7]([H:12])[H:13])[H:11])([H:8])([H:9])[H:10].[O:1]([O:2])[H:3]>>[C:6](#[C:7][H:13])[H:11].[H:3][O:5][C:4]([H:8])([H:9])[H:10].[O:1][O:2][H:12],59.155327474931255
2511,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:16])([H:17])[H:18])([C:8]([C:9]([H:21])([H:22])[H:23])([H:19])[H:20])[H:15])([H:13])[H:14])([H:10])([H:11])[H:12].[C:24]([H:25])([H:26])[H:27]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:16])([H:17])[H:18])([C:8]([C:9]([H:21])[H:23])([H:19])[H:20])[H:15])([H:13])[H:14])([H:10])([H:11])[H:12].[H:22][C:24]([H:25])([H:26])[H:27],20.38870950601995
1057,[C:14]([C:15]([C:16]([C:17]([H:30])([H:31])[H:32])([c:18]1[c:19]([H:33])[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]1[H:37])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:14]([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])([H:5])[C:15]([C:16]([C:17]([H:30])([H:31])[H:32])([c:18]1[c:19]([H:33])[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]1[H:37])[H:29])([H:27])[H:28])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],65.6149756697705
3799,[C:13]([C:14]([C:15]([C:16]([H:26])([H:27])[H:28])([C:17]([H:18])[H:19])[H:25])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([H:5])([H:6])[H:7].[C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])([H:9])[C:17]([C:15]([C:14]([C:13]([H:20])([H:21])[H:22])([H:23])[H:24])([C:16]([H:26])([H:27])[H:28])[H:25])([H:18])[H:19],60.89318451093277
849,[C:19]([O:20][C:21]([C:22]([H:30])([H:31])[H:32])([C:23]([H:24])[H:25])[H:29])([H:26])([H:27])[H:28].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:19]([O:20][C:21]([C:22]([H:30])([H:31])[H:32])=[C:23]([H:24])[H:25])([H:26])([H:27])[H:28].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:13])[H:29])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5](=[O:6])[N:7]([H:17])[H:18],80.6629366997513
1485,[C:10]([C:11]([C:12]([H:13])[O:14][C:15]([H:21])([H:22])[H:23])([H:19])[H:20])([H:16])([H:17])[H:18].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])[H:9])([H:7])[C:12]([C:11]([C:10]([H:16])([H:17])[H:18])([H:19])[H:20])([H:13])[O:14][C:15]([H:21])([H:22])[H:23])[H:6],12.952091843180824
1451,[C:10]([C:11]([C:12]([C:13]([H:22])([H:23])[H:24])[C:14](=[O:15])[O:16][H:25])([H:20])[H:21])([H:17])([H:18])[H:19].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])([H:9])[C:12]([C:11]([C:10]([H:17])([H:18])[H:19])([H:20])[H:21])([C:13]([H:22])([H:23])[H:24])[C:14](=[O:15])[O:16][H:25])[H:7])[H:6],15.659575188707096
